US06919355B2
c) Methyl 5-amino-6-hydroxy-indole-2-carboxylate
A mixture of 0.67 g (2.0 mmol) of methyl 6-benzyloxy-5-nitro-indole-2-carboxylate, 60 ml of tetrahydrofuran and 0.1 g of 10% Pd/C catalyst is hydogenated for 5 h. The catalyst is filtered off and the filtrate containing the title compound is used immediately in the next step.

reactant | methyl 6-benzyloxy-5-nitro-indole-2-carboxylate | 2.0 mmol, 0.67 g | C(C1=CC=CC=C1)OC1=C(C=C2C=C(NC2=C1)C(=O)OC)[N+](=O)[O-] | C17H14N2O5
catalyst | Pd/C | 0.1 g | [Pd] | Pd
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | Methyl 5-amino-6-hydroxy-indole-2-carboxylate | NC=1C=C2C=C(NC2=CC1O)C(=O)OC | C10H10N2O3
